data/oMe_Silver.jsonl
{"reaction_id": "NR-223_1-c1ccc(OC)cc1_2-C1C2CC(C1)CC2_3-C1CCC1_4-c1ccccc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(c1ccc(OC)cc1)(C1C2CC(C1)CC2)(O)C(O)(C1CCC1)(c1ccccc1)"],"products_smiles": ["C(=O)(c1ccc(OC)cc1)C(C1C2CC(C1)CC2)(C1CCC1)(c1ccccc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(C1C2CC(C1)CC2)(O)C([OH2+])(C1CCC1)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(c1ccc(OC)cc1)(C1C2CC(C1)CC2)(O)[C+](C1CCC1)(c1ccccc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(c1ccc(OC)cc1)C(C1C2CC(C1)CC2)(C1CCC1)(c1ccccc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
{"reaction_id": "NR-336_1-CCCC(C)C_2-C(F)(F)F_3-CC","level": "medium","name": "Robinson-Gabriel Synthesis","reactants_smiles": ["C(=O)(NC([H])(C(F)(F)F)C(=O)CC)CCCC(C)C"],"products_smiles": ["CCCC(C)Cc1nc(C(F)(F)F)c(CC)o1"],"conditions": "Acid (e.g., H-OTs, H2SO4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC([H])(C(F)(F)F)C(=[OH+])CC)CCCC(C)C","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the adjacent carbon, making it more susceptible to nucleophilic attack by the nearby amide nitrogen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CCCC(C)CC1=[NH+]C(C(F)(F)F)C(O)(CC)O1","step_weight": 0,"rationale": "The amide nitrogen attacks the activated carbonyl carbon intramolecularly, favored by proximity and ring closure, forming a five-membered oxazolinium intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CCCC(C)CC1=NC(C(F)(F)F)C([OH2+])(CC)O1","step_weight": 0,"rationale": "Proton transfer to the hydroxyl group converts it into a better leaving group (water), facilitated by the acidic medium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "CCCC(C)Cc1nc(C(F)(F)F)c(CC)o1","step_weight": 0,"rationale": "Loss of water generates a conjugated aromatic oxazole ring, driven by the stability of the aromatic system and the good leaving ability of water under acidic conditions."}],"description": "Under acidic conditions, the amide carbonyl is activated toward intramolecular cyclization. Protonation increases electrophilicity, enabling nucleophilic attack by the amide nitrogen to form an oxazole ring. Subsequent proton transfers and water elimination yield the aromatic heterocycle."}
